US07943795B2
I. 7-{1′-[4-(3,3-Dimethyl-2-oxobutoxy)-3-methylphenyl]-1-ethylpropyl}naphthalene-2-carboxylic acid methyl ester
Stir a mixture of 7-[1-ethyl-1-(4-hydroxy-3-methylphenyl)propyl]naphthalene-2-carboxylic acid methyl ester (0.87 g, 2.40 mmol), 1-bromopinacolone (1.54 g, 8.68 mmol), and potassium carbonate (2.4 g, 17.4 mmol) in acetone (20 mL) for 4 h at RT. Concentrate the reaction mixture and then dilute the residue with EtOAc (100 mL) and water (50 mL). Adjust the pH of the mixture to 1 using 1 N HCl. Discard the aqueous layer. Wash the organic layer with brine, dry over Na2SO4 and filter. Concentrate the filtrate and purified by silica gel radial chromatography (5:95 EtOAc:hex to 15:85 EtoAc:hex) to give the title compound as a white solid (1.1 g, 82%). MS (ES) m/e 461 (M+1).

reactant | 7-[1-ethyl-1-(4-hydroxy-3-methylphenyl)propyl]naphthalene-2-carboxylic acid methyl ester | 2.40 mmol, 0.87 g | COC(=O)C1=CC2=CC(=CC=C2C=C1)C(CC)(C1=CC(=C(C=C1)O)C)CC | C24H26O3
reactant | 1-bromopinacolone | 8.68 mmol, 1.54 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | potassium carbonate | 17.4 mmol, 2.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 7-{1′-[4-(3,3-Dimethyl-2-oxobutoxy)-3-methylphenyl]-1-ethylpropyl}naphthalene-2-carboxylic acid methyl ester | 1.1 g, 82% | COC(=O)C1=CC2=CC(=CC=C2C=C1)C(CC)(CC)C1=CC(=C(C=C1)OCC(C(C)(C)C)=O)C | C30H36O4
